US09085576B2
Step 3: 5-(Thiazol-4-ylmethoxy)pyrazine-2-carboxylic acid
To a solution of methyl 5-(thiazol-4-ylmethoxy)pyrazine-2-carboxylate (0.7606 g, 3.03 mmol) in 1,4-dioxane (15.14 ml) was added a 1 N solution of sodium hydroxide (4.54 ml, 4.54 mmol) at rt. The reaction mixture was allowed to stir for 16 hours. Hydrogen chloride (4.0M solution in 1,4-dioxane; 1.135 ml, 4.54 mmol, Sigma Aldrich) was added and after 10 minutes, the reaction mixture was concentrated in vacuo to give the title compound. MS m/z=237.9 [M+H]+. Calculated for C9H7N3O3S: 237.021. 1H NMR (400 MHz, DMSO-d6) δ ppm 5.59 (s, 2H) 7.86 (d, J=1.96 Hz, 1H) 8.45 (d, J=1.17 Hz, 1H) 8.83 (d, J=1.37 Hz, 1H) 9.14 (d, J=1.96 Hz, 1H)

reactant | methyl 5-(thiazol-4-ylmethoxy)pyrazine-2-carboxylate | 3.03 mmol, 0.7606 g | S1C=NC(=C1)COC=1N=CC(=NC1)C(=O)OC | C10H9N3O3S
reactant | sodium hydroxide | 4.54 mmol, 4.54 ml | [OH-].[Na+]
reactant | Hydrogen chloride | 4.54 mmol, 4.0M, 1.135 ml | Cl | ClH
solvent | 1,4-dioxane | 15.14 ml | O1CCOCC1 | C4H8O2
product | 5-(Thiazol-4-ylmethoxy)pyrazine-2-carboxylic acid | S1C=NC(=C1)COC=1N=CC(=NC1)C(=O)O | C9H7N3O3S
